US06743939B2
a) [4-(Methoxymethylamino)-4-oxobutyl]carbamic acid 1,1-dimethylethyl ester
4-(Dimethylamino)pyridine (6.11 g), N,O-dimethylhydroxylamine hydrochloride(4.88 g), N-methylmorpholine (5.06 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (9.58 g) were added in quick succession to a solution of 4-(tert-butoxycarbonylamino)butyric acid (10.16 g) in dichloromethane (200 ml). The reaction mixture was then stirred under ambient conditions for 18 h. The solution was then washed with 2M hydrochloric acid solution, 10% sodium bicarbonate solution and brine. The organic layer was separated, dried over magnesium sulfate, filtered and the filtrate evaporated to dryness to give the subtitle compound as a colourless oil (10.2 g, 83%).

reactant | N,O-dimethylhydroxylamine hydrochloride | 4.88 g | Cl.CNOC
reactant | N-methylmorpholine | 5.06 g | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 9.58 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-(tert-butoxycarbonylamino)butyric acid | 10.16 g | C(C)(C)(C)OC(=O)NCCCC(=O)O | C9H17NO4
catalyst | 4-(Dimethylamino)pyridine | 6.11 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | [4-(Methoxymethylamino)-4-oxobutyl]carbamic acid 1,1-dimethylethyl ester | 10.2 g, 83% | CC(C)(C)OC(NCCCC(=O)NCOC)=O | C11H22N2O4
